US04898872
3,4-Dihydro-4-methyl-6-amino-8-methyl-2-(1H)-quinolone
A suspension of 4-methyl-6-amino-8-methyl-2-(1H)-quinolone (0.38 g) in absolute ethanol (50 cm3) was hydrogenated at 100° and 2000 p.s.i. (13.7×106Pa) pressure over 10% palladised charcoal (0.05 g) for 72 hours. The cooled solution was then filtered through "Solkafloc" (Trade mark for a cellulose-base filtering aid) and evaporated in vacuo to give a solid which was chromtographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with methanol:chloroform, 1:50 by volume. Combination and evaporation of appropriate fractions gave a residue which on trituration with ethyl acetate afforded the title compound, m.p. 207°-10°, (0.22 g).

reactant | 4-methyl-6-amino-8-methyl-2-(1H)-quinolone | 0.38 g | CC1=CC(NC2=C(C=C(C=C12)N)C)=O | C11H12N2O
reactant | charcoal | 0.05 g | C | CH4
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 3,4-Dihydro-4-methyl-6-amino-8-methyl-2-(1H)-quinolone | CC1CC(NC2=C(C=C(C=C12)N)C)=O | C11H14N2O
